US04006180
A solution of 4'-chloro-5'-methyl-6'-hydroxyspiro(cyclopentane-1,2'-indan)-1',3'-dione (4.0 g., 0.015 mole) in tetrahydrofuran (100 ml.) is cooled to 15° C. and treated over 5 minutes with a solution of sodium bis-(2-methoxyethoxy)aluminum hydride (10 ml. of a 70% solution in benzene). The reaction is stirred one-half hour at 25° C., cooled to 10° C. and slowly treated with 20% aqueous hydrochloric acid until acidic. The organic phase is evaporated to an oil, dissolved in ether, washed with water, dried over magnesium sulfate and the solvent evaporated affording 4'-chloro-5'-methylspiro(cyclopentane-1,2'-indan)-1',3',6'-triol.

reactant | 4'-chloro-5'-methyl-6'-hydroxyspiro(cyclopentane-1,2'-indan)-1',3'-dione | 0.015 mole, 4.0 g | ClC1=C2C(C3(C(C2=CC(=C1C)O)=O)CCCC3)=O | C14H13ClO3
reactant | sodium bis-(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4'-chloro-5'-methylspiro(cyclopentane-1,2'-indan)-1',3',6'-triol | ClC1=C2C(C3(C(C2=CC(=C1C)O)O)CCCC3)O | C14H17ClO3
